US04060540
Preparation of 1-chloro-trans-1-octen-3-one
To a slurry of 233.5 g. (1.75 moles) of aluminum chloride in 390 ml. of carbon tetrachloride, saturated with acetylene and cooled in an ice bath, is added over 20 minutes 201.9 g. (1.50 moles) of hexanol chloride. After the addition is complete, acetylene is bubbled into the mixture as rapidly as it is absorbed and for 1 hour after absorption becomes slow. The mixture is poured onto 1700 g. of ice and 720 ml. of saturated brine. The organic phase is separated and the aqueous phase is washed with ether. The combined organic phase and washings are washed with saturated brine, dried (Na2SO4) and evaporated. The residual oil is combined with 10 g. of hydroquinone and distilled to yield a colorless oil, b.p. 51°-52° C. (0.10 torr).

reactant | aluminum chloride | 1.75 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylene | C#C | C2H2
reactant | hexanol chloride | 1.50 moles | [Cl-].C(CCCCC)O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-chloro-trans-1-octen-3-one | Cl\C=C\C(CCCCC)=O | C8H13ClO
